US08809369B2
To a suspension of cyclopropanesulfonic acid amide (96 mg, 0.8 mmol) in N,N-dimethylformamide (1.5 mL) was added sodium hydride (32 mg, 0.8 mmol). The resulting mixture was stirred at 25° C. for 1 h to afford Solution A76. A solution of 4,4-dimethyl-2-[3-(4-phenyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid (50 mg, 0.11 mmol) and 1,1′-carbonyldiimidazole (37 mg, 0.23 mmol) in N,N-dimethylformamide (2 mL) was stirred at 70° C. for 1 h and cooled to room temperature to afford Solution B76. Solution B76 was added to Solution A76 and the resulting mixture was stirred at 25° C. for 1 h. To the reaction mixture was added water (0.5 mL). The mixture was filtered to remove the insoluble solid, and the filtrate was purified by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded cyclopropanesulfonic acid {4,4-dimethyl-2-[3-(4-phenyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carbonyl}-amide (15 mg, 24%) as a white solid: MS (ESI) M+1=545.2.

reactant | cyclopropanesulfonic acid amide | 0.8 mmol, 96 mg | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | sodium hydride | 0.8 mmol, 32 mg | [H-].[Na+]
reactant | 4,4-dimethyl-2-[3-(4-phenyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid | 0.11 mmol, 50 mg | CC1(CC(NC2=C(C=CC=C12)C(=O)O)C1=CC(=CC=C1)N1CCN(CC1)C1=CC=CC=C1)C | C28H31N3O2
reactant | 1,1′-carbonyldiimidazole | 0.23 mmol, 37 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | 0.5 mL | O | H2O
product | cyclopropanesulfonic acid {4,4-dimethyl-2-[3-(4-phenyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carbonyl}-amide | 15 mg, 24% | CC1(CC(NC2=C(C=CC=C12)C(=O)NS(=O)(=O)C1CC1)C1=CC(=CC=C1)N1CCN(CC1)C1=CC=CC=C1)C | C31H36N4O3S
